US06326495B2
8Cyclopentyl-6-ethyl-3-thiophen-2-yl-5,8-dihydro-4H-1,2,3a,7,8-pentaaza-as-indacene
A solution of 1cyclopentyl-7-ethoxy-3-ethyl-4,5-dihydro-1H-pyrazolo[3,4-c]pyridine (3.739 kg, 14.3 moles) and 2thiophenecarboxylic hydrazide (2.237 kg, 15.8 moles) were heated in a solution in 1-butanol (37 L) to ˜90° C. in a 50 gal tank for 48 hours. At this point, some 1-butanol was distilled off to remove water azeotropically. The reaction was concentrated to a low volume and 4 gallons of methylene chloride (4 gal, 15 L) was added. The organics were washed twice with 1 N HCl (8 gal, 30.3 L) and concentrated by distillation to low volume. Isopropanol (16 L) was added to the concentrate and the resulting slurry was cooled and granulated. The product was collected by filtration and vacuum oven dried at 40° C. The yield was 3.25 kg (67%) of a white solid; mp 126° C.

reactant | 1cyclopentyl-7-ethoxy-3-ethyl-4,5-dihydro-1H-pyrazolo[3,4-c]pyridine | 14.3 moles, 3.739 kg | C1(CCCC1)N1N=C(C2=C1C(=NCC2)OCC)CC | C15H23N3O
reactant | 2thiophenecarboxylic hydrazide | 15.8 moles, 2.237 kg | S1C(=CC=C1)C(=O)NN | C5H6N2OS
solvent | 1-butanol | 37 L | C(CCC)O | C4H10O
product | 8Cyclopentyl-6-ethyl-3-thiophen-2-yl-5,8-dihydro-4H-1,2,3a,7,8-pentaaza-as-indacene | C1(CCCC1)N1N=C(C=2CCN3C(=NN=C3C12)C=1SC=CC1)CC | C18H21N5S
